US08865675B2
Synthesis of (6Z,9Z,27Z,30Z)-19-oxohexatriaconta-6,9,27,30-tetraen-18-yl 3-(dimethylamino)propanoate (Compound 21)
To a solution of (6Z,9Z,27Z,30Z)-19-hydroxyhexatriaconta-6,9,27,30-tetraen-18-one (1.0 g, 1.9 mmol), 3-(dimethylamino)propanoic acid hydrogen chloride (876 mg, 5.7 mmol) and EDCI (1.2 g, 6.3 mmol), in dichloromethane (20 mL) was added DIPEA (1.0 mL, 5.7 mmol) and DMAP (20 mg). The solution was stirred at room temperature for 16 hours under nitrogen. Upon completion, the reaction was diluted with dichloromethane (50 mL) and washed with sodium bicarbonate solution (50 mL). The dichloromethane layer was dried on magnesium sulfate, filtered and concentrated in vacuo to dryness. The residue was purified by column chromatography (100% ethyl acetate) to afford the title compound as a colorless oil (675 mg, 57%). 1H NMR (400 MHz, CDCl3): δ 5.43-5.28 (m, 8H), 5.03-4.98 (m, 1H), 2.80-2.75 (m, 4H), 2.74-2.56 (m, 4H), 2.54-2.36 (m, 2H), 2.28 (s, 6H), 2.09-2.01 (m, 8H), 1.82-1.64 (m, 2H), 1.63-1.52 (m, 2H), 1.42-1.23 (m, 30H), 0.93-0.86 (m, 6H).

reactant | (6Z,9Z,27Z,30Z)-19-hydroxyhexatriaconta-6,9,27,30-tetraen-18-one | 1.9 mmol, 1.0 g | OC(C(CCCCCCC\C=C/C\C=C/CCCCC)=O)CCCCCCC\C=C/C\C=C/CCCCC | C36H64O2
reactant | 3-(dimethylamino)propanoic acid hydrogen chloride | 5.7 mmol, 876 mg | Cl.CN(CCC(=O)O)C
reactant | EDCI | 6.3 mmol, 1.2 g | CCN=C=NCCCN(C)C | C8H17N3
reactant | DIPEA | 5.7 mmol, 1.0 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
catalyst | DMAP | 20 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | (6Z,9Z,27Z,30Z)-19-oxohexatriaconta-6,9,27,30-tetraen-18-yl 3-(dimethylamino)propanoate | 675 mg, 57% | CN(CCC(=O)OC(CCCCCCC\C=C/C\C=C/CCCCC)C(CCCCCCC\C=C/C\C=C/CCCCC)=O)C | C41H73NO3
